US08470823B2
4-Chloro-2-methoxypyridin-3-amine (CC1)
To a stirred solution of 2-bromo-4-chloropyridin-3-amine (prepared as described in US2002/0119982) (1.0 eq.) in dry MeOH (0.25M) under argon was added a solution of NaOMe (25% wt in MeOH, 1.5 eq.) and the reaction mixture was refluxed for 1 h, more NaOMe (25% wt in MeOH, 1.5 eq) was added and the reaction mixture was refluxed for an additional 2 h. The volatiles were removed under reduced pressure and the crude product was purified by flash chromatography eluting with 2-10% EtOAc/petroleum ether affording the titled compound as yellow oil. 1H-NMR (300 MHz, DMSO-d6, 300K) δ 7.33 (1H, d, J=5.5 Hz), 6.88 (1H, d, J=5.5 Hz), 5.13 (2H, bs), 3.89 (3H, s). MS (ES) C6H7ClN2O requires: 158, found: 159, 161 (M+H)+.

reactant | 2-bromo-4-chloropyridin-3-amine | 1.0 eq. | BrC1=NC=CC(=C1N)Cl | C5H4BrClN2
reactant | NaOMe | 1.5 eq. | C[O-].[Na+]
reactant | NaOMe | 1.5 eq | C[O-].[Na+]
solvent | MeOH | 0.25M | CO | CH4O
product | 4-Chloro-2-methoxypyridin-3-amine | ClC1=C(C(=NC=C1)OC)N | C6H7ClN2O
